US04041026
To a solution of 7-chloro-5-methoxy-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one (600 mg) in dry dimethylformamide (2 ml), sodium hydride (50% suspension in a mineral oil; 106 mg) is added under ice-cooling, and the resultant mixture is stirred at room temperature for 10 minutes. Methyl iodide (740 mg) is added to the mixture, which is stirred at room temperature for 5 minutes. The reaction mixtute is poured into icy water and shaken with diethyl ether. The organic layer is washed with water, dried over sodium sulfate, and evaporated to remove the solvent. The residue is crystallized from isopropyl ether to give 7-chloro-5-methoxy-1-methyl-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one (381 mg) as colorless prisms melting at 146.5 to 147° C.

reactant | 7-chloro-5-methoxy-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one | 600 mg | ClC=1C=CC2=C(C(N=CC(N2)=O)(C2=CC=CC=C2)OC)C1 | C16H13ClN2O2
reactant | Methyl iodide | 740 mg | CI | CH3I
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | sodium hydride | [H-].[Na+]
product | 7-chloro-5-methoxy-1-methyl-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one | 381 mg | ClC=1C=CC2=C(C(N=CC(N2C)=O)(C2=CC=CC=C2)OC)C1 | C17H15ClN2O2
